US05220042
4.07 Grams of 1-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]-1-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)methane was dissolved in 20 ml of ethanol and 40 ml of pyridine, then a catalytic amount of copper powder was added thereto and refluxed for 10 hours. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure, to the residue thus obtained was added 20 ml of ethyl acetate. The organic layer was washed with a diluted hydrochloric acid, water, a saturated sodium chloride aqueous solution in this order, dried over anhydrous sodium sulfate, concentrated under a reduced pressure to yield 3.42 g of ethyl 3-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]propionate as an ethyl ester. Colorless oily substance.

reactant | 1-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]-1-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)methane | COC1=C(C(=C(C=C1OCOC)OC)OCOC)CC1C(OC(OC1=O)(C)C)=O | C19H26O10
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
catalyst | copper | [Cu] | Cu
product | ethyl 3-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]propionate | 3.42 g | COC1=C(C(=C(C=C1OCOC)OC)OCOC)CCC(=O)OCC | C17H26O8
